US04031218
F. Synthesis of 7-(2,3-dihydroxypropyl)-1,3-di-n-propylxanthine (V)
A suspension of 1,3-di-n-propylxanthine (250.1 g., 1.06 mole) in water (300 ml.) was treated with sodium hydroxide solution (50%, 85 ml.). The mixture was filtered, and evaporated to dryness. The residue obtained was treated with a solution of 1-chloro-2,3-dihydroxypropane (170 g., 1.59 mole) in isopropanol (700 ml.). The mixture was stirred at reflux overnight, filtered, and evaporated to dryness to obtain a brown gummy residue. This residue was dissolved in isopropyl alcohol, and stirred overnight with charcoal (20 gm.). The mixture was filtered, concentrated and allowed to crystallize over night at 0° to -5° C. The crystals were filtered, suspended in ether, refiltered and air dried to yield white crystals (224 g., 72.17%), melting point 88° - 91°. Tlc (5μl of a 5% solution) on a silica plate developed in chloroform:methanol (9.5:0.5) showed one spot. IR and NMR spectra were consistent with the proposed structure.

reactant | 1,3-di-n-propylxanthine | 1.06 mole, 250.1 g | C(CC)N1C(=O)N(C=2N=CNC2C1=O)CCC | C11H16N4O2
reactant | sodium hydroxide | 85 ml | [OH-].[Na+]
reactant | 1-chloro-2,3-dihydroxypropane | 1.59 mole, 170 g | ClCC(CO)O | C3H7ClO2
reactant | charcoal | 20 gm | C | CH4
solvent | water | 300 ml | O | H2O
solvent | isopropanol | 700 ml | C(C)(C)O | C3H8O
solvent | chloroform methanol | C(Cl)(Cl)Cl.CO
product | 7-(2,3-dihydroxypropyl)-1,3-di-n-propylxanthine | OC(CN1C=NC=2N(C(N(C(C12)=O)CCC)=O)CCC)CO | C14H22N4O4
